### PR TITLE
[Merged by Bors] - feat: allow several tactics on types that are slightly less obviously Types

### PR DESCRIPTION
**Pull request by alexjbest**
Many tactics attempt to get the universe of the sort of the terms involved by matching on the level being a succ of something.
Unfortunately this fails on some nontrivial examples like mvpolynomial which can have type `Sort (max (u+1) (v+1))` 
Instead we decrement the level manually after matching it.

See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60ring.60.20tactic.20cannot.20prove.20equality.20about.20.60MvPolynomial.60/near/352549549

This PR modifies ring, ring_nf, nontriviality, polyrith, linarith, and some norm_num handlers to appropriately handle this.
Test cases showing examples that failed before (inspired by the case of mvpolynomial, but in principle there could be other interesting types that have multiple universe parameters in this way, some of which may even have a linear order who knows).

In doing so we factor out `inferTypeQ'` into its own file `Mathlib.Tactic.Qq` for mathlib-relevant extensions of Qq

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/ring.lean [hunk 1]
```diff
@@ -125,3 +125,12 @@ example (a : Nat) : 1 * f a * 1 = f (a + 0) := by
 
 -- Powers in the exponent get evaluated correctly
 example (X : ℤ) : (X^5 + 1) * (X^2^3 + X) = X^13 + X^8 + X^6 + X := by ring
+
+-- simulate the type of MvPolynomial
+def R : Type u → Type v → Sort (max (u+1) (v+1)) := sorry
```
Comment (eric-wieser) [inline test/ring.lean:130]: But `MvPolynomial` in the docs is apparently of type `Type (maxu_1u_2)`...

Comment (alexjbest) [reply test/ring.lean:130]: Right the delaborator is smarter than lean itself in a way, it also uses `Level.dec` to normalize the type.
If you print the decl with pp.raw you'll see
```
def MvPolynomial.{u_1, u_2} : Type.{u_1} -> (forall (R : Type.{u_2}) [inst._@.Mathlib.Data.MvPolynomial.Basic._hyg.24 : CommSemiring.{u_2} R], Sort.{max (succ u_1) (succ u_2)}) :=
fun (σ : Type.{u_1}) (R : Type.{u_2}) [inst._@.Mathlib.Data.MvPolynomial.Basic._hyg.24 : CommSemiring.{u_2} R] => AddMonoidAlgebra.{u_2, u_1} R (Finsupp.{u_1, 0} σ Nat (LinearOrderedCommMonoidWithZero.toZero.{0} Nat Nat.linearOrderedCommMonoidWithZero)) (CommSemiring.toSemiring.{u_2} R inst._@.Mathlib.Data.MvPolynomial.Basic._hyg.24)
```

**Comment by alexjbest** [comment]
I actually would expect some sort of level normalization to be the correct way to handle these things (i.e. we should normalize all levels before adding decls to the environment)
But even this
```
#eval Lean.Level.normalize (.max (.succ (.param `n)) (.succ (.param `m)))
```
doesn't move the offset out of the max.

File: test/ring.lean (hunk 1 above)
Comment (eric-wieser) [reply test/ring.lean:130]: Can we just add an explicit type to AddMonoidAlgebra to fix that?

Comment (alexjbest) [reply test/ring.lean:130]: I think if something is accepted by Lean tactics should be able to handle it, unless I misunderstand your suggestion.
Otherwise we are in a situation where users can easily footgun themselves by defining types that they cant run tactics on.

File: Mathlib/Tactic/Ring/Basic.lean [hunk 2]
```diff
@@ -1092,10 +1092,11 @@ initialize ringCleanupRef : IO.Ref (Expr → MetaM Expr) ← IO.mkRef pure
 def proveEq (g : MVarId) : AtomM Unit := do
   let some (α, e₁, e₂) := (← whnfR <|← instantiateMVars <|← g.getType).eq?
     | throwError "ring failed: not an equality"
-  let .sort (.succ u) ← whnf (← inferType α) | throwError "not a type{indentExpr α}"
-  have α : Q(Type u) := α
+  let .sort u ← whnf (← inferType α) | throwError "not a sort{indentExpr α}"
+  let v ← u.dec
```
Comment (digama0) [inline Mathlib/Tactic/Ring/Basic.lean:1096]:
```suggestion
  let .sort u ← whnf (← inferType α) | unreachable!
  let v ← try u.dec catch _ => throwError "not a sort{indentExpr α}"
```

File: test/ring.lean (hunk 1 above)
Comment (digama0) [reply test/ring.lean:130]: Note that the level normalization automatically turns `(max u v) + 1` into `max (u+1) (v+1)`, so no amount of rewriting will change this. Using `.dec` is the correct solution.

Comment (alexjbest) [reply test/ring.lean:130]: Oh interesting, I had the wrong mental model of what normalization should do here.

Comment (digama0) [reply test/ring.lean:130]: As did I, this is not the direction I would have expected, it seems less useful.

File: Mathlib/Tactic/Qq.lean
Comment (digama0) [inline Mathlib/Tactic/Qq.lean:1]: I think this should go in `Mathlib.Util` instead since it's not a frontend tactic

**Comment by digama0** [comment]
bors d+

File: Mathlib/Tactic/Qq.lean
Comment (alexjbest) [reply Mathlib/Tactic/Qq.lean:1]: Ah yes, thats much better thanks.
